US07666879B2
A. 7-Pyridin-4-yl-imidazo[1,2-a]pyridine Method A
Charge a 250 mL round bottom flask equipped with a magnetic stirrer, temperature controlled heating mantle, under N2 atmosphere, condenser, with 7-chloro-imidazo[1,2-a]pyridine (4.0 g, 26.2 mmol), 4-pyridyl boronic acid (3.54 g, 28.8 mmol 1.1 Eq), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (600 mg) [X-Phos can be used as an alternate ligand in this reaction], Pd(OAc)2 (145 mg), K3PO4 (11.1 g, 52.6 mmol), and dioxane: H2O 2:1 (170 mL). Warm the reaction while purging with a N2 needle, then heat to 65° C. for 18 hours. Cool the reaction to room temperature and transfer to a separatory funnel and siphon off the bottom layer (25 mL). Add EtOAc and evaporate the solvents under reduced pressure off. Take the solids up into EtOAc again, and evaporate under reduced pressure to azeotrope off traces of water. Dissolve the brown solid into CH2Cl2 and 5% MeOH and then chromatograph using SiO2 eluting with a slow gradient of 0% to 10% of 2 M NH3 in MeOH with the balance CH2Cl2. Evaporate the product fractions under reduced pressure to give a light yellow/tan solid 4.5 g (89%). MS (ES), m/z 196 (M+1).

reactant | 7-chloro-imidazo[1,2-a]pyridine | 26.2 mmol, 4.0 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | 4-pyridyl boronic acid | 28.8 mmol, 3.54 g, 1.1 Eq | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K3PO4 | 52.6 mmol, 11.1 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 145 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 600 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dioxane H2O | 170 mL | O1CCOCC1.O
product | 7-Pyridin-4-yl-imidazo[1,2-a]pyridine | 4.5 g, 89% | N1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C12H9N3
